US08871782B2
A mixture of 7-(benzyloxy)-1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline (4.6 g, 9.04 mmol) and palladium hydroxide (1.5 g) in acetonitrile (50 mL) and methanol (75 mL) was hydrogenated on a Parr apparatus at 50 psi (3.5×105 Pa) for 28 hours. The mixture was filtered through CELITE filter agent, which was rinsed afterwards with 40% methanol in acetonitrile (600 mL). The filtrates were combined and concentrated under reduced pressure to yield a yellow solid that was triturated with acetonitrile and isolated by filtration to afford 2.2 g of 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-7-ol as a pale yellow powder.

reactant | 7-(benzyloxy)-1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline | 9.04 mmol, 4.6 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCN3S(CCC3)(=O)=O)COCC | C27H32N4O4S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium hydroxide | 1.5 g | [OH-].[Pd+2].[OH-]
product | 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 2.2 g | O=S1(N(CCC1)CCCCN1C(=NC=2C=NC=3C=C(C=CC3C21)O)COCC)=O | C20H26N4O4S
